US08138197B2
Production of 5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid
Carbonyldiimidazole (130 mg) and triethylamine (0.446 mL) were added to a DMF solution (4 mL) of 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid (232 mg), and stirred at 70° C. for 2 hours. To the reaction liquid, added was a DMF suspension (2 ml) of 5-(4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid dihydrochloride (370 mg) and triethylamine (0.335 ml) that had been prepared separately, and further stirred at that temperature for 1 hour. 1 N hydrochloric acid and water were added to the reaction liquid, the resulting solid was taken out through filtration, and recrystallized from methanol to obtain the title compound.

reactant | Carbonyldiimidazole | 130 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,5-diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid | 232 mg | C(C)OC=1C=C(C(=O)O)C=C(C1C=1C=NN(C1)C)OCC | C15H18N2O4
reactant | 5-(4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid dihydrochloride | 370 mg | Cl.Cl.O=C1CC2(CCNCC2)OC2=CC=C(C=C12)C=1C=C(C=NC1)C(=O)O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | triethylamine | 0.335 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.446 mL | C(C)N(CC)CC | C6H15N
product | 5-(1′-{[3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-4-oxospiro[chroman-2,4′-piperidin]-6-yl)pyridine-3-carboxylic acid | C(C)OC=1C=C(C=C(C1C=1C=NN(C1)C)OCC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=C(C=NC2)C(=O)O | C34H34N4O7
